US05334505
To prepare the starting material N,N-Dimethylindoaniline (Phenol Blue III)-A solution of 0.075 mole of phenol, 4 g (0.1 mole) of sodium hydroxide, and 8 g (0.06 mole) of sodium acetate in 250 c.c of water was stirred mechanically in a salt-ice bath in such a way as to maintain a temperature of 0° to 5° during the reaction. Two dropping funnels were put in place, one containing 100 cc (0.1 mole) of 5% sodium hypochlorite, the other a solution of 0.05 mole of p-aminodimethylaniline hydrochloride in 100 cc of water. The two solutions were then added simultaneously in the course of forty-five to sixty minutes. The solution became blue after the addition of a few drops of the reagents and the dye soon began to separate. Stirring was then continued for fifteen minutes after completion of the addition and the product was then collected and washed several times with water; the dark blue filtrate, probably containing phenol-indophenol formed by alkaline hydrolysis of the product was discarded. The crude dye was crystallized from ethyl acetate, giving fine, intense violet needles, m.p. 161° [as reported by Gnelm and Bots J. Prakt. Chem., 69:162 (1904)] Yield 7.2 g (63%). This is generally the method of Gnelm and Bots, Supra [see also Heller Ann 392:16 (1912) and Cohen and Phillips, Suppl. No. 74 U.S. Pub. Health Reports 1929]. 1.1 6 g N,N-Dimethylindoaniline (J.A.C.S., 61, 376/1939, see above) are added to a solution of 7 g. sodium hydroxide in 250 ml. water. While stirring vigorously, sodium dithionite is added portionwise thereto until the blue colour has disappeared. The solution is filtered, the filtrate is cooled to about 5° C. and mixed dropwise with glacial acetic acid, until the precipitate has come out completely. The precipitate is filtered off and dissolved in 25 ml. concentrated hydrochloric acid. The solution is treated with carbon, filtered and evaporated. The residue is recrystallised from ethanol. There are obtained 3.1 g. (51% of theory) 4-dimethylamino-4'-hydroxydiphenylamine. 1.2 2.6 g. of the leuko coloured material obtained in 1.1, 8.83 g. 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-glucosyl chloride and 4.21 g. benzyltriethylammonium bromide are added to a mixture of 125 ml. chloroform and 125 ml. water. The mixture is vigorously stirred, mixed with 8.7 g. potassium carbonate and boiled under reflux for 6 hours, whereby after 3 hours, 4.4 g. of the halogenase and 4.3 g. potassium carbonate are added thereto. The chloroform phase is separated off, dried with anhydrous sodium sulphate and evaporated.

reactant | N,N-Dimethylindoaniline | CN(C)C1=CC=C(C=C1)N=C2C=CC(=O)C=C2 | C14H14N2O
reactant | phenol | 0.075 mole | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
reactant | sodium acetate | 0.06 mole, 8 g | C(C)(=O)[O-].[Na+]
reactant | sodium hypochlorite | 0.1 mole, 100 cc | Cl[O-].[Na+]
reactant | p-aminodimethylaniline hydrochloride | 0.05 mole | Cl.NC1=CC=C(N(C)C)C=C1
solvent | water | 100 cc | O | H2O
product | phenol-indophenol | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)O | C12H9NO2
